US05488055
A mixture of 5-acetamido-2-bromobenzoic acid (7 g, 27 mmol), DMF (25 ml), Cu(OAc)2 (0.2 g), 5-amino-1-ethyl-pyrazole (3 g, 27 mmol) and K2CO3 (3.7 g, 27 mmol) was refluxed for about 2 days. The reaction mixture was poured into water, acidified with acetic acid and cooled. A solid formed which was collected by filtration to afford 2 g of N-(1-ethylpyrazole-5-yl)-5-acetamidoanthranilic acid.

reactant | 5-acetamido-2-bromobenzoic acid | 27 mmol, 7 g | C(C)(=O)NC=1C=CC(=C(C(=O)O)C1)Br | C9H8BrNO3
reactant | DMF | 25 ml | CN(C)C=O | C3H7NO
reactant | 5-amino-1-ethyl-pyrazole | 27 mmol, 3 g | NC1=CC=NN1CC | C5H9N3
reactant | K2CO3 | 27 mmol, 3.7 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Cu(OAc)2 | 0.2 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-(1-ethylpyrazole-5-yl)-5-acetamidoanthranilic acid | 2 g | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC(=CC1)NC(C)=O | C14H16N4O3
